US08748374B2
3-chloro-6-fluoro-2-(trifluoromethyl)quinoxaline
7-Fluoro-3-(trifluoromethyl)quinoxalin-2-ol (24.1 g) and POCl3 (158.1 g) were combined and warmed to 100° C. for 12 h. The reaction mixture was cooled to room temperature and diluted with acetonitrile (104 mL). To a separate vessel was charged water (320 g) and acetonitrile (124 g), then cooled to 10° C. The reaction mixture was added to the acetonitrile/water mixture over 1 hour. The slurry was cooled to 10° C. for 30 min, then it was filtered and the cake was washed with 2:1 (v/v) water:acetonitrile (3×65 mL). The solid was dried under vacuum at 50° C. for 14 h (24.7 g, 95% yield).

reactant | 7-Fluoro-3-(trifluoromethyl)quinoxalin-2-ol | 24.1 g | FC1=CC=C2N=C(C(=NC2=C1)O)C(F)(F)F | C9H4F4N2O
reactant | POCl3 | 158.1 g | O=P(Cl)(Cl)Cl | Cl3OP
reactant | water | 320 g | O | H2O
reactant | acetonitrile water | C(C)#N.O
solvent | acetonitrile | 104 mL | C(C)#N | C2H3N
solvent | acetonitrile | 124 g | C(C)#N | C2H3N
product | 3-chloro-6-fluoro-2-(trifluoromethyl)quinoxaline | 95% yield | ClC=1C(=NC2=CC=C(C=C2N1)F)C(F)(F)F | C9H3ClF4N2
